US04098789
(A) [[[2-[3-(Dimethylamino)propoxy]phenyl]methylene]amino]-acetic acid, ethyl ester
A stirred solution of 15 g of 2-(3-dimethylaminopropoxy)benzaldehyde and 10.2 g of glycine, ethyl ester, hydrochloride in 300 ml of ethanol is treated with 4.8 g of 85% potassium hydroxide and stirring continued for 3 hours at room temperature. Potassium chloride is filtered off, washed with ethanol, and the solvent is removed on a rotary evaporator (water bath temperature, 30°-35° C). The residue is dissolved in ether, filtered, and the evaporation repeated to give 20.9 g of an oil. The material is stored in the cold.

reactant | 2-(3-dimethylaminopropoxy)benzaldehyde | 15 g | CN(CCCOC1=C(C=O)C=CC=C1)C | C12H17NO2
reactant | glycine, ethyl ester, hydrochloride | 10.2 g | Cl.NCC(=O)OCC
reactant | potassium hydroxide | 4.8 g | [OH-].[K+]
solvent | ethanol | 300 ml | C(C)O | C2H6O
product | [[[2-[3-(Dimethylamino)propoxy]phenyl]methylene]amino]-acetic acid, ethyl ester | 20.9 g | CN(CCCOC1=C(C=CC=C1)C=NCC(=O)OCC)C | C16H24N2O3
